US06958347B2
Palladium acetate (129 mg, 0.57 mmol) was added to a suspension of silver carbonate (1.6 g, 5.72 mmol), 1,3-bis(diphenylphosphino)propane (236 mg, 0.57 mmol), tributylphosphine (0.713 ml, 579 mg, 2.86 mmol) and N-ethyl-2-bromo-5-nitro-N-phenyl-benzamide (1.0 g, 2.86 mmol) in DMF (15 ml). The reaction mixture was heated to reflux for 30 minutes and cooled to 23° C. The mixture was filtered through a plug of celite, and the filter cake was washed with ethyl acetate (50 ml). The combined filtrates were washed with saturated sodium chloride (3-30 ml portion), dried over anhydrous sodium sulfate, and were concentrated. The residue was purified by flash column chromatography (10% ethyl acetate in dichloromethane) afforded 5-ethyl-8-nitro-5H-phenanthridin-6-one I-16b (111 mg, 14%) as a yellow solid.

reactant | 1,3-bis(diphenylphosphino)propane | 0.57 mmol, 236 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | tributylphosphine | 2.86 mmol, 0.713 ml, 579 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N-ethyl-2-bromo-5-nitro-N-phenyl-benzamide | 2.86 mmol, 1.0 g | C(C)N(C(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O)C1=CC=CC=C1 | C15H13BrN2O3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | Palladium acetate | 0.57 mmol, 129 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | silver carbonate | 5.72 mmol, 1.6 g | C([O-])([O-])=O.[Ag+2]
product | 5-ethyl-8-nitro-5H-phenanthridin-6-one | C(C)N1C=2C=CC=CC2C2=CC=C(C=C2C1=O)[N+](=O)[O-] | C15H12N2O3
